US08420640B2
A solution of 2-nitro-N-phenyl-5-(piperazin-1-yl)benzenamine (0.30 g, 1.0 mmol), methanesulfonyl chloride (0.08 ml, 1.0 mmol) and triethylamine (0.32 ml, 4.0 mmol) in 20 ml dichloromethane was stirred at 0° C. for 2 hours. The mixture was washed with water (2×10 ml) and dried over anhydrous sodium sulfate before removing the solvents. 5-(4-methansulfonylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine (0.20 g, 52%) was obtained by flash column chromatograph (30% ethyl acetate in hexanes). 1H NMR (500 MHz, DMSO-d6) δ (ppm) 2.90 (s, 3H), 3.20 (t, J=5.3 Hz, 4H), 3.42 (t, J=5.3 Hz, 4H), 6.46 (d, J=3.6, 1H), 6.62 (dd, J=3.6, 9.7 Hz, 1H), 7.21-7.46 (m, 5H), 8.05 (d, J=9.7 Hz, 1H), 9.74 (s, 1H). 13C NMR (125 MHz, DMSO-d6): δ (ppm) 34.2, 44.7, 45.9, 95.9, 106.6, 123.5, 124.8, 128.3, 129.6, 138.9, 144.3, 154.9.

reactant | 2-nitro-N-phenyl-5-(piperazin-1-yl)benzenamine | 1.0 mmol, 0.30 g | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCNCC1)NC1=CC=CC=C1 | C16H18N4O2
reactant | methanesulfonyl chloride | 1.0 mmol, 0.08 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 4.0 mmol, 0.32 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-(4-methansulfonylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine | 0.20 g, 52% | CS(=O)(=O)N1CCN(CC1)C=1C=CC(=C(C1)NC1=CC=CC=C1)[N+](=O)[O-] | C17H20N4O4S
